US04652556
Preparation of 2-(3-Thienyl)-2-(methylsulfonamido)propionitrile
To a mixture of 2.7 g (0.0143 mole) 2-amino-2-(3-thienyl)-propionitrile hydrochloride (the product of Example 8) in 50 ml methylene chloride, 3.6 g (5 ml [0.036 mole]) triethylamine were added, followed by 2 g (1.4 ml [0.018 mole]) methanesulfonyl chloride. The reaction mixture was stirred at room temperature for three hours. The reaction mixture was then washed with saturated sodium bicarbonate and brine, dried over sodium sulfate and stripped to give the above-identified product which was used in Example 10 without further purification.

reactant | 2-amino-2-(3-thienyl)-propionitrile hydrochloride | 0.0143 mole, 2.7 g | Cl.NC(C#N)(C)C1=CSC=C1
reactant | triethylamine | 0.036 mole, 5 ml, 3.6 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.018 mole, 1.4 ml, 2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Thienyl)-2-(methylsulfonamido)propionitrile | S1C=C(C=C1)C(C#N)(C)NS(=O)(=O)C | C8H10N2O2S2
